US07659268B2
tert-Butyl 1-(3-bromophenyl)cyclopropylcarbamate (2.2 g, 7.1 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (2.2 g, 8.7 mmol), potassium acetate (2.08 g, 21.2 mmol), and dichloro[1,1′-bis(diphenylphosphino)ferrocene]-palladium (II) dichloromethane adduct (Pd(dppf)Cl2, 0.29 g, 0.35 mmol) were dissolved in 60 mL of N,N-dimethylformamide. The reaction mixture was heated at 80° C. for 24 hours and was then evaporated to dryness. The residue was partitioned between dichloromethane and a saturated aqueous solution of sodium chloride. The layers were separated and the organic phase was filtered through Celite and evaporated to dryness to provide tert-butyl 1-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)cyclopropyl-carbamate, which was used without further purification.

reactant | tert-Butyl 1-(3-bromophenyl)cyclopropylcarbamate | 7.1 mmol, 2.2 g | BrC=1C=C(C=CC1)C1(CC1)NC(OC(C)(C)C)=O | C14H18BrNO2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 8.7 mmol, 2.2 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 21.2 mmol, 2.08 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]-palladium (II) dichloromethane adduct | 0.35 mmol, 0.29 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | tert-butyl 1-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)cyclopropyl-carbamate | CC1(OB(OC1(C)C)C=1C=C(C=CC1)C1(CC1)NC(OC(C)(C)C)=O)C | C20H30BNO4
